US04992469
EXAMPLE 6: 6-(7-CARBOXY-3-METHYL-2,6-OCTADIENYL)-2,3-DIMETHOXY-5-METHYL-1,4-BENZOQUINONE
2 g of 6-(7-carboxy-3-methyl-2,6-octadienyl)-2,3,4-trimethoxy-5-methylphenol as prepared in Example 1 was dissolved in 20 ml of ethyl acetate and 5 g of ferric chloride hexahydrate was added thereto. The reaction mixture was stirred at room temperature for 30 min. After adding 100 ml of ether, it was washed with water, dried over anhydrous magnesium sulfate and concentrated. The concentrate was purified by means of silica gel chromatography with the use of ethyl acetate/benzene as the eluent to give 1.8 g of the title compound as an orange oil.

reactant | 6-(7-carboxy-3-methyl-2,6-octadienyl)-2,3,4-trimethoxy-5-methylphenol | 2 g | C(=O)(O)C(=CCCC(=CCC1=C(C(=C(C(=C1O)OC)OC)OC)C)C)C | C20H28O6
reactant | ether | 100 ml | CCOCC | C4H10O
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 6-(7-CARBOXY-3-METHYL-2,6-OCTADIENYL)-2,3-DIMETHOXY-5-METHYL-1,4-BENZOQUINONE | 1.8 g | C(=O)(O)C(=CCCC(=CCC1=C(C(C(=C(C1=O)OC)OC)=O)C)C)C | C19H24O6
